US08426449B2
Step 4: (3-{2-[(Benzyl-methoxycarbonyl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid
To (3-{2-[(benzyl-methoxycarbonyl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid methyl ester (0.07 g) in THF (2 mL) was added 1N aqueous lithium hydroxide (2 mL), and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The mixture was acidified with 1N aqueous HCl to pH 3-4, and extracted three times with EtOAc. The combined organic layers were washed with H2O, dried, and concentrated to give the title compound. M+H=485.

reactant | (3-{2-[(benzyl-methoxycarbonyl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid methyl ester | 0.07 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN(C(=O)OC)CC1=CC=CC=C1)=O | C25H24BrNO5
reactant | lithium hydroxide | 1N, 2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (3-{2-[(Benzyl-methoxycarbonyl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid | C(C1=CC=CC=C1)N(C(=O)OC)CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)Br | C24H22BrNO5
